US09024027B2
A mixture of tert-butyl 2-(4-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate (85 mg, 0.240 mmol) and TFA (370 μl, 4.80 mmol) in 5 ml of DCM was stirred at room temperature overnight. The mixture was evaporated to obtain 2-(4-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetic acid (72 mg, 0.240 mmol, 100% yield, MS/ESI+ 298.9 [MH]+) and used as such in the following reaction without further purification.

reactant | tert-butyl 2-(4-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetate | 0.240 mmol, 85 mg | CS(=O)(=O)NC1=C2C(N(C(C2=CC=C1)=O)CC(=O)OC(C)(C)C)=O | C15H18N2O6S
reactant | TFA | 4.80 mmol, 370 μl | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetic acid | 0.240 mmol, 72 mg, 100% yield | CS(=O)(=O)NC1=C2C(N(C(C2=CC=C1)=O)CC(=O)O)=O | C11H10N2O6S
